US08119422B2
a) Synthesis of methyl 3-methoxymethyl-4-hydroxy-5-methylbenzoate
A suspension of crude methyl 4-acetoxy-3-bromomethyl-5-methylbenzoate (4.63 g, 0.00154 mol) in methanol (100 mL) was mixed with sodium bicarbonate (6.48 g, 5 equivalents). The mixture was refluxed under a nitrogen atmosphere. After 1.5 hours, TLC analysis showed complete conversion. The reaction was cooled to room temperature and evaporated to dryness. The residue was partitioned between ethyl acetate (100 mL) and water (100 mL). The ethyl acetate layer was separated and washed with water. It was then dried over anhydrous magnesium sulfate, filtered and evaporated to dryness. The crude product (1.5 g) was purified by flash chromatography on silica using 10% ethyl acetate/hexanes as eluent. Purified Yield=0.833 g (40%), white waxy solid.

reactant | methyl 4-acetoxy-3-bromomethyl-5-methylbenzoate | 0.00154 mol, 4.63 g | C(C)(=O)OC1=C(C=C(C(=O)OC)C=C1C)CBr | C12H13BrO4
reactant | sodium bicarbonate | 6.48 g, 5 equivalents | C([O-])(O)=O.[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | methyl 3-methoxymethyl-4-hydroxy-5-methylbenzoate | COCC=1C=C(C(=O)OC)C=C(C1O)C | C11H14O4
